US09289419B2
Synthesis of tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
Di-tert-butyldicarbonate (0.38 g, 0.38 mL, 1.7 mmol) was added dropwise for 10 minutes to a cold (−30° C.) stirred solution of 2,5-diazabicyclo[2.2.1]heptanedihydrobromide (1 g, 3.8 mmol) and triethylamine (776 mg, 1.07 mL, 7.6 mmol) in MeOH (30 mL). The reaction mixture was stirred at 25° C. for 12-16 h. The reaction mixture was concentrated under reduced pressure; diluted with water and filtered. The filtrate was extracted with DCM; the organic layer was washed with brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 200 mg of the title compound as a white solid.

reactant | Di-tert-butyldicarbonate | 1.7 mmol, 0.38 mL, 0.38 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,5-diazabicyclo[2.2.1]heptanedihydrobromide | 3.8 mmol, 1 g | Br.Br.C12NCC(NC1)C2
reactant | triethylamine | 7.6 mmol, 1.07 mL, 776 mg | C(C)N(CC)CC | C6H15N
solvent | MeOH | 30 mL | CO | CH4O
product | tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 200 mg | C12N(CC(NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
